US09024018B2
8-(4-(4-Bromophenyl)thiazol-2-yl)-3-methylimidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-022)
3-Methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide (0.48 mmol) and 2,4′-dibromoacetophenone (0.48 mmol) were stirred in MeCN overnight at room temperature. A slight yellow solid persisted which was filtered off before the remaining mixture was purified by preparative thin layer chromatography, eluting with 10% MeCN/DCM, to give the title compound. Yield=81%. δH (DMSO-d6): 8.92 (1H, s), 8.39 (1H, s), 8.04 (2H, d, J=8.8), 7. (2H, d, J=8.8), 3.89 (3H, s).

reactant | 3-Methyl-4-oxo-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 0.48 mmol | CN1N=NC=2N(C1=O)C=NC2C(N)=S | C6H6N6OS
reactant | 2,4′-dibromoacetophenone | 0.48 mmol | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
solvent | MeCN | CC#N | C2H3N
product | 8-(4-(4-Bromophenyl)thiazol-2-yl)-3-methylimidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | Yield=81% | BrC1=CC=C(C=C1)C=1N=C(SC1)C=1N=CN2C1N=NN(C2=O)C | C14H9BrN6OS
